US07129232B2
To a solution of [1-(2-fluoroethyl)-1H-pyrazol-5-yl]formamide (15.7 g) in methanol (78 ml) was added concentrated hydrochloric acid (21 ml) at room temperature. The reaction mixture was stirred for 3.5 hours and evaporated in vacuo. The residue was dissolved in ethyl acetate and washed with aqueous sodium hydrogen carbonate solution. The organic layer was dried over magnesium sulfate and concentrated in vacuo to give 1-(2-fluoroethyl)-1H-pyrazol-5-amine (12 g).

reactant | [1-(2-fluoroethyl)-1H-pyrazol-5-yl]formamide | 15.7 g | FCCN1N=CC=C1NC=O | C6H8FN3O
reactant | hydrochloric acid | 21 ml | Cl | ClH
solvent | methanol | 78 ml | CO | CH4O
product | 1-(2-fluoroethyl)-1H-pyrazol-5-amine | 12 g | FCCN1N=CC=C1N | C5H8FN3
